US07666879B2
2-(2-Amino-thiazol-5-yl)-propan-2-ol
Add n-Butyl lithium (1.6 M solution in hexane, 24 mL, 38 mmol, 2.0 eq.) in a dropwise manner at −78° C. under nitrogen to the solution of 2-amino thiazole (1.90 g, 18.97 mmol, 1.0 eq.) in anhydrous THF (80 mL). Add chlorotrimethyl silane (4.8 mL, 38 mmol, 2.0 eq.) to the mixture slowly at −78° C. Let the reaction mixture warm up to 0° C. slowly and stir the mixture at 0° C. for 10 minutes. Cool the solution to −78° C. and add n-Butyl lithium (1.6 M solution in hexane, 12 mL, 19 mmol, 1.0 eq.) in a dropwise manner. Add acetone (1.4 mL, 19 mmol, 1.0 eq.) last. Stir the reaction mixture at −78° C. for 10 minutes, then at room temperature for 30 minutes. Quench with ammonium chloride (sat. 10 mL) at −78° C. Then warm up to room temperature. Add ethyl acetate (200 mL). Wash the organic layer with aqueous saturated sodium chloride (3×30 mL), water (2×30 mL). Dry the organic phase over MgSO4 and filter the drying reagent off. Concentrate in vacuo. Purify by column chromatography (0%→5% methanol in dichloromethane→10% methanol in dichloromethane) to afford product (1.38 g, 46%). MS(ES), m/z 159 (M+1).

reactant | n-Butyl lithium | 38 mmol, 1.6 M, 24 mL, 2.0 eq. | C(CCC)[Li]
reactant | 2-amino thiazole | 18.97 mmol, 1.90 g, 1.0 eq. | NC=1SC=CN1 | C3H4N2S
reactant | chlorotrimethyl silane | 38 mmol, 4.8 mL, 2.0 eq. | Cl[Si](C)(C)C | C3H9ClSi
reactant | n-Butyl lithium | 19 mmol, 1.6 M, 12 mL, 1.0 eq. | C(CCC)[Li]
reactant | acetone | 19 mmol, 1.4 mL, 1.0 eq. | CC(=O)C | C3H6O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-(2-Amino-thiazol-5-yl)-propan-2-ol | 1.38 g, 46% | NC=1SC(=CN1)C(C)(C)O | C6H10N2OS
